US04001454
Oxidation of 8-methylnon-2yn-1-ol with manganese dioxide in refluxing ether gave 8-methylnon-2yn-1-al. The aldehyde was converted to acetals using appropriate acidic catalysts.

reactant | 8-methylnon-2yn-1-ol | CC(CCCCC#CCO)C | C10H18O
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | ether | CCOCC | C4H10O
product | 8-methylnon-2yn-1-al | CC(CCCCC#CC=O)C | C10H16O
